US06054453
Ethyl 3-[4-[2-(phenoxazin-10-yl)ethoxy]phenyl]-2-hexyloxypropanoate:
The title compound (0.52 g, 53%) was prepared as a pale yellow oil from 2-(phenoxazin-10-yl)ethyl methanesulfonate (0.6 g and 1.97 mmol) and ethyl 3-(4-hydroxyphenyl)-2-hexyloxypropanoate (0.70 g, 2.4 mmol) obtained in preparation 8 by an analogous procedure to that described in example 6 (Method B).

reactant | 2-(phenoxazin-10-yl)ethyl methanesulfonate | 1.97 mmol, 0.6 g | CS(=O)(=O)OCCN1C2=CC=CC=C2OC=2C=CC=CC12 | C15H15NO4S
reactant | ethyl 3-(4-hydroxyphenyl)-2-hexyloxypropanoate | 2.4 mmol, 0.70 g | OC1=CC=C(C=C1)CC(C(=O)OCC)OCCCCCC | C17H26O4
product | Ethyl 3-[4-[2-(phenoxazin-10-yl)ethoxy]phenyl]-2-hexyloxypropanoate | 0.52 g, 53% | C1=CC=CC=2OC3=CC=CC=C3N(C12)CCOC1=CC=C(C=C1)CC(C(=O)OCC)OCCCCCC | C31H37NO5
